US04169923
1-acryloyl benzotriazole;
1-acryloyl methoxybenzotriazole; 1-acryloyl methylbenzotriazole; 1-acryloil imidazolide; N-acryloyl-succinimide; N-2,4,5-trichlorophenil acrylamide.

reactant | 1-acryloyl methoxybenzotriazole | C(C=C)(=O)COC1=CC=CC=2NN=NC21 | C10H9N3O2
reactant | 1-acryloyl methylbenzotriazole | C(C=C)(=O)N1N=NC2=C1C=CC=C2C | C10H9N3O
reactant | imidazolide | [N-]1C=NC=C1
reactant | N-acryloyl-succinimide | C(C=C)(=O)N1C(CCC1=O)=O | C7H7NO3
reactant | acrylamide | C(C=C)(=O)N | C3H5NO
product | 1-acryloyl benzotriazole | C(C=C)(=O)N1N=NC2=C1C=CC=C2 | C9H7N3O
